US04495196
4,5-Bis(4-chlorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol
A mixture of 2.9 g (0.01 mole) of 2,3-bis(4-chlorophenyl)-1H-pyrrole and 2.5 g (0.011 mole) of hexafluoroacetone trihydrate in 50 ml toluene was heated at reflux overnight. The mixture was concentrated on a rotary evaporation and the solid residue was chromatographed on 200 g silica gel (eluting with toluene), then recrystallized from hexane to give 3.8 g of product, m.p. 144°-145° C.

reactant | 2,3-bis(4-chlorophenyl)-1H-pyrrole | 0.01 mole, 2.9 g | ClC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)Cl | C16H11Cl2N
reactant | hexafluoroacetone trihydrate | 0.011 mole, 2.5 g | O.O.O.FC(C(=O)C(F)(F)F)(F)F
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(4-chlorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol | 3.8 g | ClC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)Cl)C(O)(C(F)(F)F)C(F)(F)F | C19H11Cl2F6NO
